US04603135
Diketene (5.1 g) was added to 4-benzhydryl-1-piperazineethanol (18.1 g) and the mixture was heated at 70°-80° C. with stirring for 1.5 hours and purified by silica gel chromatography [eluent: hexane-ethyl acetate (3:2)] to give 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate as an oil. Yield 17.1 g (73.6%).

reactant | Diketene | 5.1 g | C=C1CC(=O)O1 | C4H4O2
reactant | 4-benzhydryl-1-piperazineethanol | 18.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCO | C19H24N2O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
